US05407961
To a stirred and cooled mixture of 32 nil of sulfuric acid and 14 ml of water there were added 17 g of 2,3-dihydro-5-chlorobenzofuran, while keeping the temperature at 25° C. After cooling to 0° C., there were added dropwise 14 ml of nitric acid. Stirring and cooling at 0° C. was continued for 44 hours. The reaction mixture was diluted with water (temp. <10° C.) and stirred for 15 min. The precipitate was filtered off, washed with water and recrystallized from a mixture of ethyl acetate and hexane (30:70), yielding 8.9 g (40.5%) of 5-chloro-2,3-dihydro-7-nitrobenzofuran (interm. 3).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2,3-dihydro-5-chlorobenzofuran | 17 g | ClC=1C=CC2=C(CCO2)C1 | C8H7ClO
reactant | nitric acid | 14 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
solvent | water | 14 ml | O | H2O
product | 5-chloro-2,3-dihydro-7-nitrobenzofuran | 8.9 g, 40.5% | ClC=1C=C(C2=C(CCO2)C1)[N+](=O)[O-] | C8H6ClNO3
